US04329488
100 g (0.03 mol) of 2-[p-[(α,α,α-trifluoro-p-tolyl)oxy]phenoxy]-propionic acid and 252 g (3.0 mol) of sodium bicarbonate are suspended in 2.5 liters of dimethyl sulphoxide and thereafter treated slowly with 336.5 ml (3.0 mol) of tert.butyl bromide. The mixture is stirred at room temperature overnight. The mixture, including the separated thick precipitate, is subsequently taken up in 5 liters of ethyl acetate. The ethyl acetate solution is washed twice with 1 liter of water, dried over sodium sulphate and evaporated. The residue is chromatographed on a 10-fold amount of silica gel with hexane/ethyl acetate (7:1) and the eluate is evaporated. There is obtained 2-[p-[(α,α,α-trifluoro-p-tolyl)oxy]phenoxy]-propionic acid [(methylthio)methyl]ester in the form of an oil.

reactant | 2-[p-[(α,α,α-trifluoro-p-tolyl)oxy]phenoxy]-propionic acid | 0.03 mol, 100 g | FC(C1=CC=C(C=C1)OC1=CC=C(OC(C(=O)O)C)C=C1)(F)F | C16H13F3O4
reactant | sodium bicarbonate | 3.0 mol, 252 g | C([O-])(O)=O.[Na+]
reactant | tert.butyl bromide | 3.0 mol, 336.5 ml | C(C)(C)(C)Br | C4H9Br
reactant | dimethyl sulphoxide | 2.5 liters | CS(=O)C | C2H6OS
solvent | ethyl acetate | 5 liters | C(C)(=O)OCC | C4H8O2
product | 2-[p-[(α,α,α-trifluoro-p-tolyl)oxy]phenoxy]-propionic acid [(methylthio)methyl]ester | CSCOC(C(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C18H17F3O4S
